US08703768B2
Step 3: 4-Amino-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester
A solution of 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid methyl ester (4.8 g, 25.94 mmol) in dry MeOH (100 ml) was thoroughly purged with argon, treated with 10% Pd—C (2.7 g, 2.59 mmol), and again purged with argon. Then the reaction mixture was hydrogenated under a balloon pressure of hydrogen at rt for overnight. The reaction mixture was filtered through a bed of celite. The filtrate was concentrated and dried to give the title compound as gray-white solid (3.4 g, 84%), which was used in the next reaction step without further purification.

reactant | 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid methyl ester | 25.94 mmol, 4.8 g | COC(=O)C1=NN(C=C1[N+](=O)[O-])C | C6H7N3O4
solvent | MeOH | 100 ml | CO | CH4O
catalyst | Pd—C | 2.59 mmol, 2.7 g | [Pd] | Pd
product | 4-Amino-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester | 3.4 g, 84% | COC(=O)C1=NN(C=C1N)C | C6H9N3O2
